US05366987
(b) α-[[(2,4,6-trimethoxyphenyl)amino]carbonyl]benzene acetic acid ethyl ester
To a stirred, room temperature solution of diisopropylamine (43.4 mL, 0.310 mol) in dry THF (1.2 L) was added a 2.5M solution (124 mL, 0.31 mol) of n-butyl lithium in hexanes in one portion, and the mixture was cooled to -78° C. To the solution was added under nitrogen a solution of phenylacetic acid, ethyl ester (50.8 g, 0.309 mol) in THF (500 mL) over 15 minutes. Stirred 2 minutes. To the mixture was added a solution of 2,4,6-trimethoxyphenyl isocyanate (64.9 g, 0.310 mol) in THF (500 mL) over 10 minutes. Stirred 1.5 hours. The reaction was quenched with 1M HCl (310 mL, 0.310 mol) and allowed to warm to room temperature. The mixture was rotoevaporated to remove THF and partitioned between water and chloroform. The organic layer was washed (1M HCl ; saturated NaCl), dried (Na2SO4), and rotoevaporated. The residue was chromatographed on silica gel (1.4 kg, 230-400 mesh) using petroleum ether-ethyl acetate (1:1). Fractions containing product were rotoevaporated, and the residue crystallized from ethanol-ether to give a white solid; yield 46.9 g (41%); mp 109°-111° C.

reactant | diisopropylamine | 0.310 mol, 43.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | phenylacetic acid, ethyl ester | 0.309 mol, 50.8 g | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
reactant | 2,4,6-trimethoxyphenyl isocyanate | 0.310 mol, 64.9 g | COC1=C(C(=CC(=C1)OC)OC)N=C=O | C10H11NO4
reactant | HCl | 0.310 mol, 1M, 310 mL | Cl | ClH
solvent | THF | 1.2 L | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | α-[[(2,4,6-trimethoxyphenyl)amino]carbonyl]benzene acetic acid ethyl ester | C(C)OC(C(C1=CC=CC=C1)C(=O)NC1=C(C=C(C=C1OC)OC)OC)=O | C20H23NO6
